US06635655B1
(2-Bromomethyl-6-methyl-phenoxy)-acetonitrile
Triphenylphosphine (15.2 g, 57.8 mmoles) is added to (2-Hydroxymethyl-6-methyl-phenoxy)-acetonitrile (9.3 g, 52.5 mmoles) in THF (175 mL). The mixture is stirred until homogeneous and cooled to 0° C., followed by addition, in three portions, of N-bromosuccinimide (10.3 g, 57.8 mmoles). After 90 minutes the reaction is concentrated and the residue purified by column chromatography (silica, 5:1 hex:EtOAc) to yield the title compound as a pale yellow crystalline solid. MS (EI) 239, 241 (M)+, Br pattern.

reactant | Triphenylphosphine | 57.8 mmoles, 15.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-Hydroxymethyl-6-methyl-phenoxy)-acetonitrile | 52.5 mmoles, 9.3 g | OCC1=C(OCC#N)C(=CC=C1)C | C10H11NO2
reactant | N-bromosuccinimide | 57.8 mmoles, 10.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 175 mL | C1CCOC1 | C4H8O
product | (2-Bromomethyl-6-methyl-phenoxy)-acetonitrile | BrCC1=C(OCC#N)C(=CC=C1)C | C10H10BrNO
